US07947738B2
(11-g) Tert-butyl(±)-[(1S,5R,6R)-6-aminomethyl-3-isopropylbicyclo[3.2.0]hept-3-en-6-yl]acetate
Tert-butyl(±)-[(1S,5R,6R)-6-(nitromethyl)-3-isopropylbicyclo[3.2.0]hept-3-en-6-yl]acetate (3.00 g, 9.70 mmol) was dissolved in ethanol (60 mL). To the solution, iron powder (4.47 g, 80.05 mmol) and then an aqueous ammonium chloride (0.54 g, 10.00 mmol) solution (20 mL) were added, and the mixture was stirred for 4.5 hours under heating to reflux. The mixture was allowed to cool and then filtered through Celite to remove insoluble matter. The solution was concentrated, and the residue was diluted with ethyl acetate. The dilution was washed with a saturated aqueous solution of sodium bicarbonate and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to obtain the compound of interest as a colorless oil substance (2.50 g, 92%).

reactant | Tert-butyl(±)-[(1S,5R,6R)-6-(nitromethyl)-3-isopropylbicyclo[3.2.0]hept-3-en-6-yl]acetate | 9.70 mmol, 3.00 g | [N+](=O)([O-])C[C@@]1([C@H]2C=C(C[C@H]2C1)C(C)C)CC(=O)OC(C)(C)C | C17H27NO4
reactant | ammonium chloride | 10.00 mmol, 0.54 g | [Cl-].[NH4+]
solvent | ethanol | 60 mL | C(C)O | C2H6O
catalyst | iron | 80.05 mmol, 4.47 g | [Fe] | Fe
product | Tert-butyl(±)-[(1S,5R,6R)-6-aminomethyl-3-isopropylbicyclo[3.2.0]hept-3-en-6-yl]acetate | NC[C@@]1([C@H]2C=C(C[C@H]2C1)C(C)C)CC(=O)OC(C)(C)C | C17H29NO2
